US06200976B1
b. (4-cyano-phenyl)-acetic acid
14.2 g (0.081 mol) of methyl(4-cyano-phenyl)-acetate are dissolved in 100 ml ethanol and after the addition of 20 ml 2N sodium hydroxide solution stirred for 1 hour at ambient temperature. The solvent is distilled off, the residue is mixed with ice water and glacial acetic acid. The substance precipitated is suction filtered and dried.

reactant | methyl(4-cyano-phenyl)-acetate | 0.081 mol, 14.2 g | COC(CC1=CC=C(C=C1)C#N)=O | C10H9NO2
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (4-cyano-phenyl)-acetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
